US04758557
5.3 g of 3-benzoylthiopyridine was dissolved in 30 ml of acetone, and 9.4 ml of 2-iodoethanol was added thereto and reacted for 16 hours, while heated under reflux. After the reaction, the reaction solution was concentrated and the remaining residue was washed with ether and then with a mixture solution of methylene chloride/ether (=2/1) and dried to obtain 5.3 g of 1-hydroxyethyl-3-benzoylthiopyridinium iodide.

reactant | 3-benzoylthiopyridine | 5.3 g | C(C1=CC=CC=C1)(=O)SC=1C=NC=CC1 | C12H9NOS
reactant | 2-iodoethanol | 9.4 ml | ICCO | C2H5IO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-hydroxyethyl-3-benzoylthiopyridinium iodide | 5.3 g | [I-].OC(C)[N+]1=CC(=CC=C1)SC(C1=CC=CC=C1)=O | InChI=1S/C14H14NO2S.HI/c1-11(16)15-9-5-8-13(10-15)18-14(17)12-6-3-2-4-7-12;/h2-11,16H,1H3;1H/q+1;/p-1
